US05977105
b) (±)-1-(4'-(2-Propenyl)biphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
A solution of 4'-(2-propenyl)biphenyl4-ol (1.22 g; Biochemistry 1987, 26(18), 5908) in ethanol (10 ml) at room temperature was treated with a solution of sodium hydroxide (0.215 g) in water (5 ml) and was then heated at reflux. A solution of (±)-α-(chloromethyl)-3-pyridinepropanol (1.0 g) in ethanol (5 ml) was added to the latter and the resulting mixture heated at reflux for 2 hours. The reaction mixture was cooled and then concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:ethanol (95:5) to give a solid. Trituration with diethyl ether:methanol (9:1) gave the title compound as a colourless solid (0.256 g).

reactant | 4'-(2-propenyl)biphenyl4-ol | 1.22 g | C(C=C)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C15H14O
reactant | sodium hydroxide | 0.215 g | [OH-].[Na+]
reactant | (±)-α-(chloromethyl)-3-pyridinepropanol | 1.0 g | ClCC(CCC=1C=NC=CC1)O | C9H12ClNO
reactant | diethyl ether methanol | C(C)OCC.CO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (±)-1-(4'-(2-Propenyl)biphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.256 g | C(C=C)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC(CCC=1C=NC=CC1)O | C24H25NO2
